US07691882B2
(2-Methyl-pyridin-4-yl)-methanol (40 mg, 0.33 mmol) described in Manufacturing Example 47-1-1, thionyl chloride (0.047 ml, 0.65 mmol) and methylene chloride (4.0 ml) were stirred for 5 minutes at 60° C. Sodium bicarbonate solution and ethyl acetate were added to separate the reaction solution, and the ethyl acetate layer was dried over sodium sulfate. The solvent was evaporated under a reduced pressure to obtain 4-chloromethyl-2-methyl-pyridine as a crude product.

reactant | (2-Methyl-pyridin-4-yl)-methanol | 0.33 mmol, 40 mg | CC1=NC=CC(=C1)CO | C7H9NO
reactant | thionyl chloride | 0.65 mmol, 0.047 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloromethyl-2-methyl-pyridine | ClCC1=CC(=NC=C1)C | C7H8ClN
